US06407096B1
(4-(2-(1,1-diphenylethylsulfinyl)ethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetic acid
(4-(2-(1,1-diphenylethylthio)ethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetic acid (51 mg) was dissolved in methylene chloride (5 ml), and the resultant solution was stirred at room temperature. m-CPBA (20 mg) was then added to the solution, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was added to water (20 ml), and then extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The residue was purified by Lober® column chromatography (DIOL, type A, developing solvent: n-hexane/ethyl acetate=1/2) to obtain the object compound (43 mg, yield 81%).

reactant | (4-(2-(1,1-diphenylethylthio)ethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetic acid | 51 mg | C1(=CC=CC=C1)C(C)(SCCN1CCOC2=C1C=CC=C2OCC(=O)O)C2=CC=CC=C2 | C26H27NO4S
reactant | m-CPBA | 20 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | water | 20 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (4-(2-(1,1-diphenylethylsulfinyl)ethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetic acid | 43 mg, yield 81% | C1(=CC=CC=C1)C(C)(S(=O)CCN1CCOC2=C1C=CC=C2OCC(=O)O)C2=CC=CC=C2 | C26H27NO5S
